US04318913
2-[3-[4-Formylphenoxy]propyl]-1H-isoindole-1,3-dione
4-Hydroxybenzaldehyde (24.4 g) and sodium hydride (4.8 g) in dry dimethylformamide (400 ml) were stirred at room temperature for 3 h. N-(3-Bromopropyl)phthalimide (55.0 g) was added and the reaction was stirred for a further 5 h. The mixture was poured onto ice and the resulting white solid was recrystallised from a mixture of dichloromethane and cyclohexane to yield the title compound (42.2 g) m.p. 120°-1°. TLC silica, ethyl acetate, Rf 0.7.

reactant | 4-Hydroxybenzaldehyde | 24.4 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | N-(3-Bromopropyl)phthalimide | 55.0 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2-[3-[4-Formylphenoxy]propyl]-1H-isoindole-1,3-dione | 42.2 g | C(=O)C1=CC=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C18H15NO4
